US08084471B2
2-tert-Butyl-4-cyanopyridine (10)
p-cyanopyridine (4.00 g, 38.4 mmol) was added to a 1:1 mixture of chlorobenzene/water (750 mL) in a 1 L round-bottom flask. Trimethylacetic acid (10.88 g, 106-5 mmol), (NH4)2S2O8 (17.53 g, 76.8 mmol), trifluoroacetic acid (4.390 g, 38.5 mmol) and AgNO3 (0.521 g, 3.1 mmol) were added and the heterogeneous mixture was vigorously stirred at 50° C. for 2 h. The reaction was cooled down to 0° C. and 8 M NaOH was added slowly until pH 9-10. The mixture was filtered through Celite and extracted with EtOAc (×3). The combined organic extracts were dried with MgSO4 and the solvent removed in vacuo. The dark-brown oil was purified via flash chromatography (1:6 EtOAc/Hexane) to afford a brown solid (4.305 g, 70%); 1H NMR (400 MHz, CDCl3): δ 1.39 (s, 9H), 7.38 (d, J=5.2 Hz, 1H), 7.63 (s, 1H), 8.73 (d, J=4.4 Hz, 1H); 13C NMR (100 MHz, CDCl3): δ 29.2, 37.3, 116.4, 119.9, 120.4, 121.6, 149.1, 170.3; HRMS-EI (m/z): [M+H+] calcd for [C10H13N2]+, 161.1079. found 161.1070.

reactant | p-cyanopyridine | 38.4 mmol, 4.00 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | Trimethylacetic acid | 106-5 mmol, 10.88 g | CC(C(=O)O)(C)C | C5H10O2
reactant | trifluoroacetic acid | 38.5 mmol, 4.390 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 8 M | [OH-].[Na+]
catalyst | AgNO3 | 3.1 mmol, 0.521 g | [N+](=O)([O-])[O-].[Ag+]
solvent | chlorobenzene water | 750 mL | ClC1=CC=CC=C1.O
product | 2-tert-Butyl-4-cyanopyridine | 4.305 g, 70% | C(C)(C)(C)C1=NC=CC(=C1)C#N | C10H12N2
